US04908363
A mixture of 1 g of 1-benzylideneamino-2-isopropylimidazole and 50 ml of 1N hydrochloric acid is subjected to a steam distillation until benzaldehyde no longer passes over. The residual solution is evaporated in a vacuum. Methanol and benzene are added to the residue. The mixture is evaporated, methanol and benzene are again added and the mixture is again evaporated. Crude 1-amino-2-isopropylimidazole hydrochloride is obtained.

reactant | 1-benzylideneamino-2-isopropylimidazole | 1 g | C(C1=CC=CC=C1)=NN1C(=NC=C1)C(C)C | C13H15N3
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
product | 1-amino-2-isopropylimidazole hydrochloride | Cl.NN1C(=NC=C1)C(C)C | InChI=1S/C6H11N3.ClH/c1-5(2)6-8-3-4-9(6)7;/h3-5H,7H2,1-2H3;1H
